US09303035B2
1,3-Dimethyl-5-(2-methylthiazol-4-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione
The title compound was prepared by an analogous method to 3-(1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-5-yl)benzonitrile (Intermediate Ga) by replacing 3-bromobenzonitrile (step 3) with 4-bromo-2-methylthiazole.

reactant | 3-(1,3-dimethyl-2,4-dioxo-2,3,4,6-tetrahydro-1H-pyrrolo[3,4-d]pyrimidin-5-yl)benzonitrile | CN1C(N(C(C=2C1=CNC2C=2C=C(C#N)C=CC2)=O)C)=O | C15H12N4O2
reactant | 4-bromo-2-methylthiazole | BrC=1N=C(SC1)C | C4H4BrNS
product | 1,3-Dimethyl-5-(2-methylthiazol-4-yl)-1H-pyrrolo[3,4-d]pyrimidine-2,4(3H,6H)-dione | CN1C(N(C(C=2C1=CNC2C=2N=C(SC2)C)=O)C)=O | C12H12N4O2S
